US06403792B1
58c) (R)-2-(anilinomethyl)pyrrolidine
To a solution of D-Proline anilide (1.15 g, 6.0 mmol) in 20 mL of THF at 0° C. was added a 1 M solution of lithium aluminum hydride (14 mL, 14 mmol) in THF. The resulting solution was stirred at 0° C. for 11 hours. The reaction was carefully quenched with a saturated solution of Na2SO4 and extracted with EtOAc. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound as an oil. The oil was purified by silica gel chromatography with 3% CH3OH/CH2Cl2 and 1% triethyl amine to give the title compound as a yellow oil (0.029 g, 63%). ES (+) MS m/e=177 (M+H)

reactant | D-Proline anilide | 6.0 mmol, 1.15 g | N1[C@@H](C(=O)NC2=CC=CC=C2)CCC1 | C11H14N2O
reactant | lithium aluminum hydride | 14 mmol, 14 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-2-(anilinomethyl)pyrrolidine | N(C1=CC=CC=C1)C[C@@H]1NCCC1 | C11H16N2
